rxngraphormer/midgen/collections/MT_library.csv
MT_class,mechanistic pathway,
SN1_with_tosylate,"[(3,4), ([4,5],5), (5,[5,4]), ([4,6],6), (6,3.1), ([3.1,3],3),  ([2,3],3), (1,2), (3,1.1), ([1.1,1],1)]",
Weinreb_ketone_synthesis,"[([5, 1], 2), ([2, 3], 5), ([5,3],7),  (6,8), ([7,3],[3, 2]), ([2, 6], 6)]",
alkynyl_attack_to_carbonyl,"[(5, 3.1), ([3.1, 3], 3), (3, 2), ([2, 1], 1), (1,5.1), ([5.1,5],5)]",
quinazolinone_chlorination,"[(4, [4, 2]), ([2, 8], 6), ([6, 7], 7), (7, [7, 6]), ([6, 1], 1), (1, 2), ([2, 4], 4), (4, [4, 2]), ([2, 8], 8)]",
(hemi)acetal(aminal)_hydrolysis,"[(3, 6), (1, [1, 4]), ([4, 3], 3), (5, 4), ([4, 1], 1), (1, 5.1), ([5.1, 5], 5), (5, [5, 4]), ([4, 1], 1), ([5.1,5],5)]",
base_cat_ester_hydrolysis,"[(4,2), ([2,3],3), (3,[3,2]), ([2,1],1), (5,4.1), ([4.1,4],4), ]",
alpha_alkylation,"[(4, 1.1), ([1.1, 1], 1), (1, 2), ([2, 3], 3)]",
Appel,"[(5, 2), ([2, 4], 4), (4, 3.1), ([3.1, 3], 3), (3, 5), ([5, 2], 2), (2, 1), ([1, 3], [3, 5])]",
